US07504420B2
Dimethyl 5-aminoisophthalate was mesylated by treating with methane sulfonylchloride and pyridine in dichloromethane. Then N-alkylation with methyl iodide under NaH/DMF condition gave dimethyl 5-(N-methylmethylsulfonamnido)isophthalate. Selective hydrolysis of dimethyl 5-(N-methylmethylsulfonamido)isophthalate, followed by EDC/HOBT/DIPEA mediated coupling with cc-methylbezylamine provided methyl 3-(N-methylmethylsulfonamido)-5-(1-phenylethylcarbamoyl)benzoate. Ester hydrolysis using aq. 1N NaOH in presence of THF/MeOH provided pure 3-(N-methylmethylsulfonamido)-5-(1-phenylethylcarbamoyl)benzoic acid as white solid.

reactant | dimethyl 5-(N-methylmethylsulfonamido)isophthalate | CN(S(=O)(=O)C)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C12H15NO6S
reactant | EDC HOBT DIPEA | C(CCl)Cl.C=1C=CC2=C(C1)N=NN2O.CCN(C(C)C)C(C)C
reactant | methylbezylamine | CNCC1=CC=CC=C1 | C8H11N
product | methyl 3-(N-methylmethylsulfonamido)-5-(1-phenylethylcarbamoyl)benzoate | CN(S(=O)(=O)C)C=1C=C(C(=O)OC)C=C(C1)C(NC(C)C1=CC=CC=C1)=O | C19H22N2O5S
